US07060827B2
In like manner to the preparation of N4-(ethylenedioxyphenyl)-5-fluoro-N2-[3-(N-methylamino)carbonylmethyleneoxyphenyl]-2,4-pyrimidinediamine, the reaction of N2-(3,4-ethylenedioxyphenyl)-N4-(2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine with methylamine hydrochloride gave N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N4-[2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.10 (s, 1H), 7.94 (d, 1H, J=5.1 Hz), 7.59 (s, 2H), 7.44 (s, 1H), 6.96 (d, 1H, J=2.4 Hz), 6.82 (d, 1H, J=8.4 Hz), 6.76 (dd, 1H, J=3.6 and 8.1 Hz), 4.22 (s, 2H), 4.21 (s, 2H), 2.95 (s, 3H); LCMS: ret. time: 17.76 min.; purity: 97%; MS (m/e): 436 (MH+).

reactant | N2-(3,4-ethylenedioxyphenyl)-N4-(2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1)F | C22H17FN4O5
reactant | methylamine hydrochloride | Cl.CN
product | N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N4-[2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC=1C=CC2=C(C=C(O2)C(=O)NC)C1)F | C22H18FN5O4
